* Auto TB for diff_cross_mirror
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
** sch_path: /home/chandru/Tools/OpenFASOC/generators/lc-dco/xschem_rundir/diff_cross_mirror.sch
.subckt diff_cross_mirror Ibias outn outp GND
*.ipin Ibias
*.opin outn
*.opin outp
XM1 outp outn net2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=4.8 nf=20 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 outn outp net1 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=4.8 nf=20 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM4 net1 Ibias GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2.4 nf=10 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 Ibias Ibias GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1.2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 Ibias net3 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=2.4 nf=10 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends
**.GLOBAL GND
**.end


Vdd Ibias 0 DC 1.8
Vss GND 0 DC 0
X1 Ibias outn outp GND diff_cross_mirror
.op
.control
op
.endc
.end
