* Auto TB for LC_Cell
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.option gmin=1e-12
** sch_path: /home/chandru/Tools/OpenFASOC/generators/lc-dco/xschem_rundir/LC_Cell.sch
**.subckt LC_Cell Ibias outn outp
*.ipin Ibias
*.opin outn
*.opin outp
XM1 outp outn net2 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=24 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 outn outp net1 GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=24 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM3 net2 Ibias GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=48 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XL1 outp outn VDD sky130_fd_pr__ind_05_220
XC1 outp outn sky130_fd_pr__cap_mim_m3_1 W=1 L=1 MF=1 m=1
XM4 net1 Ibias GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=48 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM5 Ibias Ibias GND GND sky130_fd_pr__nfet_01v8_lvt L=0.15 W=1 nf=48 ad='int((nf+1)/2) * W/nf * 0.29'
+ as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)'
+ nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
I0 VDD Ibias 200u
**** begin user architecture code

blabla

** manual skywater pdks install (with patches applied)
* .lib /home/chandru/PDK/skywater-pdk/sky130A/libs.tech/ngspice/models/sky130.lib.spice tt

** opencircuitdesign pdks install
.lib /home/chandru/PDK/skywater-pdk/sky130A/libs.tech/ngspice/sky130.lib.spice tt


**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end


Vdd Ibias 0 DC 1.8
Vss outp 0 DC 0
X1 Ibias outn outp LC_Cell
.op
.control
op
.endc
.end
