* FIXED for ngspice v1.2
.include /mnt/e/MyResearch/Analog_blocks/models/sky130A/libs.tech/ngspice/sky130.lib.spice
.include /mnt/e/MyResearch/Analog_blocks/Analog_Blocks/OTA/Netlists/Design/Ideal_opamp/Ideal_opamp.spice
.option gmin=1e-12
**.subckt test_Ideal_Opamp
x1 Vp Vout Vout Ideal_opamp
**** begin user architecture code


.param mc_mm_switch=0
.param mc_pr_switch=0
* Mismatch parameters
* Resistor/Capacitor
* Special cells
* All models
* Corner





**************************************
*DC Analysis
**************************************
**.subckt test_bsource PLUS MINUS OUT
*.ipin PLUS
*.ipin MINUS
*.opin OUT
.param VDD=3.6
.param GAIN={1000/VDD*2}
Vpos Vp 0 0
*Vneg Vn 0 {VDD/2}
*
Vdd VDD 0 DC 1.8
Vss VSS 0 DC 0
.control
*save all
*dc Vp 0 3 0.001
*plot Vout
*write test_bsource.raw
*.endc
**************************************
*Transient analysis
**************************************
.control
alter @Vpos[Sin] [ 1 100m 1Meg ]
tran 0.05u 5u
plot Vp Vout
.endc
**************************************
.control
alter @Vpos[Sin] [ 1 5 1Meg ]
tran 0.05u 5u
plot Vp Vout
.endc
**************************************


**** end user architecture code
**.ends

* expanding   symbol:
*+  /home/eslam/mabrains/Analog_blocks/Analog_Blocks/OTA/Schematic/Ideal_opamp/Ideal_opamp.sym # of pins=3
* sym_path:
*+ /home/eslam/mabrains/Analog_blocks/Analog_Blocks/OTA/Schematic/Ideal_opamp/Ideal_opamp.sym
* sch_path:
*+ /home/eslam/mabrains/Analog_blocks/Analog_Blocks/OTA/Schematic/Ideal_opamp/Ideal_opamp.sch
.subckt Ideal_opamp  Vp Out Vn
*.ipin Vp
*.ipin Vn
*.opin Out
V1 Vp PLUS_I 0
V2 Vn MINUS_I 0
B1 Out 0 V = 'VDD/2*(1+tanh(GAIN*(V(PLUS_I)-V(MINUS_I))))' 
.ends

** flattened .save nodes
.end
